US07273856B2
To a solution in 15 ml of anhydrous THF of tert-butyloxycarbonyl-D-phenylalanine N-hydroxysuccinimmidyl ester (500 mg, 1.38 mmol), N-(3-aminopropyl)-morpholine (1.328 mmol, 0.201 ml) is added. The stirring is maintained for 90 min. The solvent is then evaporated, and the residue dissolved with AcOEt (50 ml); the organic phase is washed with NaHCO3 1M (3×50 ml), HCl 1M (3×50 ml), saturated aqueous solution of sodium chloride (3×50 ml). The solution dried on anhydrous Na2SO4. Following the evaporation of the solvent, 474 mg of (ter-butyloxycarbonyl-D-phenylalanine-N-[3(morpholin-4-yl)propyl]amide) (1.21 mmol, yield=88%) are obtained.

reactant | tert-butyloxycarbonyl-D-phenylalanine | 1.38 mmol, 500 mg | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | N-(3-aminopropyl)-morpholine | 1.328 mmol, 0.201 ml | NCCCN1CCOCC1 | C7H16N2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | ter-butyloxycarbonyl-D-phenylalanine-N-[3(morpholin-4-yl)propyl]amide | 1.21 mmol, 474 mg, yield=88% | N1(CCOCC1)CCCNC([C@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C21H33N3O4
